US07420059B2
A solution of Red-Al (185 mL, 0.613 mol, 65 weight % in toluene) in anhydrous toluene (250 mL) was cooled to 5° C. A solution of Part B methyl 4-(4-fluorophenyl)-2-isopropyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate (100. g, 0.292 mol) in anhydrous THF (500 mL) was added over 30 min. The reaction mixture was stirred at 5° C. for 3 h. The reaction was quenched by adding a solution of potassium sodium tartrate (10%, 200 mL) slowly. After toluene (100 mL) was added, the two phases were separated. The organic phase was washed with NaH2PO4 (5%, 200 mL), followed by H2O (200 m]L), and brine (200 m]L), dried over MgSO4, and filtered. The solvent was removed under reduced pressure and the obtained solid dried at 40° C. under vacuum to provide 88.27 g (92% yield) of methyl 4-(4-fluorophenyl)-2-isopropyl-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate as an off-white solid: mp 168-170° C.; 1H NMR (400 MHz, CDCl3) δ 1.23 (d, J=7.0 Hz, 6H), 1.79 (m, 2H), 2.37 (t, J=6.4 Hz, 2H), 2.99 (m, 1H), 3.39 (m, 2H), 3.40 (s, 3H), 5.07 (s, 1H), 7.03-7.16 (m, 4H); 13C NMR (100 MHz, CDCl3) δ 169.5, 162.9, 160.4, 155.7, 146.1, 133.8, 129.9, 117.9, 115.1, 114.9, 110.6, 52.0, 41.9, 33.4, 25.3, 23.0, 22.0; HRMS calcd for C19H22FN2O2 (M+1) 329.1665, found 329.1666.

reactant | Red-Al | 0.613 mol, 185 mL | COCCO[AlH2-]OCCOC.[Na+]
reactant | methyl 4-(4-fluorophenyl)-2-isopropyl-7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate | 0.292 mol | FC1=CC=C(C=C1)C1=C(C(=NC=2NC(CCC12)=O)C(C)C)C(=O)OC | C19H19FN2O3
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | methyl 4-(4-fluorophenyl)-2-isopropyl-5,6,7,8-tetrahydro-[1,8]naphthyridine-3-carboxylate | 88.27 g, 92% yield | FC1=CC=C(C=C1)C1=C(C(=NC=2NCCCC12)C(C)C)C(=O)OC | C19H21FN2O2
